US07193077B2
Preparation of 2-Furanyl-di-(2-methoxyphenyl)methanol
Methyl-2-furoate (1.58 g, 0.0125 mol) was dissolved in 100 mL of dry THF. A dropping funnel containing 50 mL of a 0.5 M solution of 2-methoxyphenylmagnesium bromide in THF (Aldrich) was attached to the reaction flask and the system was purged with argon. The reaction flask was submerged in an ice bath for 5 minutes, at which time the Grignard solution was added drop-wise over 15 minutes. After addition was complete, the reaction was allowed to warm to room temperature and was stirred overnight. A brown solution resulted. This solution was added to 150 g crushed ice and the slush was stirred with ˜0.5 g sodium bicarbonate during drop-wise addition of conc. HCl. A lavender color was observed upon addition of acid, which was continued until effervescence was observed. The resulting neutral suspension was extracted into ˜400 mL EtOAc and the organic layer was dried over MgSO4. Removal of solvent in vacuo gave a clear/yellow oil. The oil was purified by silica gel column chromatography and the product eluted using a 50:50 (vol:vol) mixture of EtOAc:hexanes. The purified product was evaporated to a solid gum yielding 3.1 grams/82% yield. The product was characterized by HPLC, 1H NMR, and FAB mass spectroscopy FAB+311 m/e.

reactant | Methyl-2-furoate | 0.0125 mol, 1.58 g | COC(=O)C=1OC=CC1 | C6H6O3
reactant | 2-methoxyphenylmagnesium bromide | COC1=C(C=CC=C1)[Mg]Br
reactant | sodium bicarbonate | ˜0.5 g | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Furanyl-di-(2-methoxyphenyl)methanol | 82% yield | O1C(=CC=C1)C(O)(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC | C19H18O4
